US08980893B2
5-[5-(3,5-Bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-imidazo[1,2-a]pyridine-8-carboxylic acid (2-methylthioethyl)-amide (compound No 1.007)
Using a procedure similar to that described in Example 1, except using 5-[5-(3,5-bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-imidazo[1,2-a]pyridine-8-carboxylic acid (45 mg) and 2-methylthioethylamine (0.016 mL), the title compound was isolated as an orange-reddish solid (11.9 mg, 23%). MS (ES): M/Z [M+H]=585. 1H NMR (400 MHz, CHLOROFORM-d): 2.22 (s, 3H), 2.85 (t, J=6.8 Hz, 2H), 3.82 (q, J=6.6 Hz, 2H), 4.01 (d, J=17.0 Hz, 1H), 4.44 (d, J=16.8 Hz, 1H), 7.21 (d, J=7.6 Hz, 1H), 7.85 (s, 1H), 8.02 (s, 1H), 8.12 (s, 2H), 8.28 (d, J=7.6 Hz, 1H), 8.90 (d, J=1.0 Hz, 1H), 10.67 (br. s., 1H). 19F NMR (376 MHz, CHLOROFORM-d): −80.0 (s, 3F), −63.3 (s, 6F).

reactant | 5-[5-(3,5-bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-imidazo[1,2-a]pyridine-8-carboxylic acid | 45 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC=C(C=2N1C=CN2)C(=O)O)C(F)(F)F)(F)F | C20H10F9N3O3
reactant | 2-methylthioethylamine | 0.016 mL | CSCCN | C3H9NS
product | 5-[5-(3,5-Bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-imidazo[1,2-a]pyridine-8-carboxylic acid (2-methylthioethyl)-amide | CSCCNC(=O)C=1C=2N(C(=CC1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CN2 | C23H17F9N4O2S
